US04017416
Thousand gram of 4-n-pentanoylbiphenyl, 2 l of diethylene glycol and 564 g of potassium hydroxide were introduced into a 5 l three neck flask and warmed with stirring to give a uniform solution at about 80° C, which was then cooled to about 50° C, followed by adding 738 ml of hydrazine hydrate, heating with stirring, distilling off low boiling fractions (mainly water) until the temperature of the reaction mixture reached 185° C, heating under reflux at 185°-190° C for 4 hours, cooling to room temperature, adding 1.5 l of water and 400 ml of hexane, stirring, washing hexane layer with aqueous solution of sodium chloride, and distilling, to give 659 g of 4-n-pentylbiphenyl (b.p. 166°-167°/6 mmHg) (Yield 70%).

reactant | 4-n-pentanoylbiphenyl | Thousand gram | C(CCCC)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H18O
reactant | potassium hydroxide | 564 g | [OH-].[K+]
reactant | hydrazine hydrate | 738 ml | O.NN
solvent | diethylene glycol | 2 l | C(COCCO)O | C4H10O3
product | 4-n-pentylbiphenyl | 659 g, Yield 70% | C(CCCC)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H20
